US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-aminoundecyloxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(b) from 18.95 g (30 mmol) of 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-phthalimido-undecyloxy)carbonyl-pyridine and 4.5 ml (90 mmol) of hydrazine hydrate. 15.0 g of a yellow oil which is used for further reactions without purification.

reactant | 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-phthalimido-undecyloxy)carbonyl-pyridine | 30 mmol, 18.95 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C35H41N3O8
reactant | hydrazine hydrate | 90 mmol, 4.5 ml | O.NN
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(11-aminoundecyloxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCCCN)C | C27H39N3O6
